US07432284B2
A solution of 2-butyl-5-methoxy-1-indanone (500 mg, 2.3 mmol) in anhydrous N,N-dimethylformamide (DMF, 5 mL) was added to a suspension of sodium hydride (100 mg of a 60% dispersion in mineral oil, 2.5 mmol) in DMF (5 mL). The mixture was diluted with more DMF (2 mL, used to rinse in the indanone solution), placed under a nitrogen atmosphere, and stirred at room temperature for 25 minutes. Allyl iodide (0.32 mL, 3.5 mmol) was then added over 5 minutes, during which time the mixture clarified. After stirring at room temperature for an additional 15.5 hours, the mixture was partitioned between EtOAc (200 mL) and water (150 mL) containing brine. The aqueous phase was extracted with EtOAc (2×100 mL). The combined EtOAc solution was washed with brine, dried over MgSO4, filtered, and concentrated under vacuum to afford an oil. The crude product was purified by Biotage™ (Charlottesville, Va.) flash chromatography on a 40S (4.0×7.0 cm) silica gel column, eluting with 49:1 hexanes-EtOAc. The product-containing fractions were evaporated under vacuum to afford 2-allyl-2-butyl-5-methoxy-1-indanone as an oil.

reactant | 2-butyl-5-methoxy-1-indanone | 2.3 mmol, 500 mg | C(CCC)C1C(C2=CC=C(C=C2C1)OC)=O | C14H18O2
reactant | sodium hydride | [H-].[Na+]
reactant | Allyl iodide | 3.5 mmol, 0.32 mL | C(C=C)I | C3H5I
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | DMF | 5 mL | CN(C=O)C | C3H7NO
product | 2-allyl-2-butyl-5-methoxy-1-indanone | C(C=C)C1(C(C2=CC=C(C=C2C1)OC)=O)CCCC | C17H22O2
